US07642263B2
5-[(3-{[2-Fluoro-1-(fluoromethyl)ethyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid
Lithium hydroxide monohydrate (77 mg, 1.82 mmol) in water (2 mL) was added to methyl 5-[(3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate (325 mg, 0.73 mmol) in THF (4 mL) and the mixture stirred at RT for 20 hours. The THF was removed in vacuo and the aqueous residue washed with ethyl acetate to remove impurities then acidified with 1M citric acid. Ethyl acetate was added and a white solid removed by filtration and dried in vacuo to give the desired compound as a white solid (0.28 g). 1H NMR δ (d6-DMSO): 3.79 (s, 3H), 4.77 (m, 4H), 5.12 (t, 1H), 6.59 (s, 1H), 7.22 (s, 1H), 7.50 (s, 1H), 7.62 (s, 2H), 8.69 (s, 1H), 8.80 (s, 1H), 10.90 (s, 1H), 13.50 (s, 1H), m/z 434 (M+H)+

reactant | Lithium hydroxide monohydrate | 1.82 mmol, 77 mg | O.[OH-].[Li+]
reactant | methyl 5-[(3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate | 0.73 mmol, 325 mg | FCC(CF)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)OC | C20H19F2N5O5
solvent | water | 2 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-[(3-{[2-Fluoro-1-(fluoromethyl)ethyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid | 0.28 g | FCC(CF)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)O | C19H17F2N5O5
